US07045177B2
Acenaphtho[1,2-b]quinoxaline (10 g) was charged into 10% oleum (49 ml), stirredfor 30 minutes and heated at 180–190° C. for 30 hours. The reaction mixture was then diluted with water (95 ml), and the formed precipitate was filtered and washed with acetic acid (˜30 ml). The filtered cake was dried on air at 120° C. to yield 8.2 g of acenaphtho[1,2-b]quinoxaline-2,5-disulfonic acid. 1H NMR (Bruker AMX-400, DMSO-d6, δ, ppm): 7.82 (q, 2H, 3 Hz); 8.18 (q, 2H, 3 Hz); 8.24–8.36 (broad s, 2H); 8.62 (s, 4H). Elemental analysis calculated for C18H10N2O6S2: C, 52.17; H, 2.43; N, 6.76; found: C, 52.02; H, 2.35; N, 6.56.

reactant | Acenaphtho[1,2-b]quinoxaline | 10 g | C1=CC=C2C=CC=C3C2=C1C1=NC2=CC=CC=C2N=C13 | C18H10N2
reactant | oleum | 49 ml | OS(=O)(=O)O.O=S(=O)=O
solvent | water | 95 ml | O | H2O
product | acenaphtho[1,2-b]quinoxaline-2,5-disulfonic acid | 8.2 g | C1=C(C=C2C=C(C=C3C2=C1C1=NC2=CC=CC=C2N=C13)S(=O)(=O)O)S(=O)(=O)O | C18H10N2O6S2
